US07595312B2
2e 2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butanoic acid
3.13 g (78.25 mmol) of NaOH, dissolved in 300 mL water, were added to a solution of 10.00 g (15.65 mmol) of diethyl 2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-malonate in 600 mL EtOH and the mixture was refluxed for 4 h. EtOH was evaporated off i. vac., the reaction mixture was acidified to pH 1 with conc. HCl and 1 hour at RT. The precipitate formed was filtered off, washed with water and dried i. vac.

reactant | NaOH | 78.25 mmol, 3.13 g | [OH-].[Na+]
reactant | diethyl 2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-malonate | 15.65 mmol, 10.00 g | NC1=C(C=C(CC(C(=O)OCC)(C(=O)OCC)CC(N2CCC(CC2)N2C(NC3=CC=CC=C3C2)=O)=O)C=C1C(F)(F)F)Cl | C30H34ClF3N4O6
solvent | water | 300 mL | O | H2O
solvent | EtOH | 600 mL | CCO | C2H6O
product | 2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butanoic acid | NC1=C(C=C(CC(C(=O)O)CC(N2CCC(CC2)N2C(NC3=CC=CC=C3C2)=O)=O)C=C1C(F)(F)F)Cl | C25H26ClF3N4O4
